US07943780B2
U.S. Pat. No. 5,196,444 discloses Candesartan cilexetil and a process for its preparation by the reaction of 2-ethoxy-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid with trityl chloride in presence of triethyl amine in methylene chloride and purification by column chromatography gives 2-ethoxy-1-[[2′-(N-triphenylmethyltetrazol-5-yl)-biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid, which upon condensation with cyclohexyl 1-iodoethyl carbonate in presence of potassium carbonate in DMF followed by purification with column chromatography gives a colorless powder which is recrystallized in ethanol yields ‘C’ type crystals of Candesartan cilexitil.

reactant | Candesartan cilexetil | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
reactant | 2-ethoxy-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | C(C)OC=1NC2=C(N1)C(=CC=C2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C(=O)O | C24H20N6O3
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
product | 2-ethoxy-1-[[2′-(N-triphenylmethyltetrazol-5-yl)-biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)O | C43H34N6O3
